US04053608
Synthesis of N-(2-hydroxyethyl) 2-methyl-5-nitronicotinamide (No. 91)
A mixture of ethyl 2-methyl-5-nitronicotinate (1 g.) and 2-aminoethanol (4 ml.) in ethanol (5ml.) was stirred at room temperature for 16 hours. The solvent was distilled off, the residue was purified by silica gel chromatography and recrystallized from ethyl acetate n-hexane to give the desired yellow crystals. mp 144° - 145° C.

reactant | ethyl 2-methyl-5-nitronicotinate | 1 g | CC1=C(C(=O)OCC)C=C(C=N1)[N+](=O)[O-] | C9H10N2O4
reactant | 2-aminoethanol | 4 ml | NCCO | C2H7NO
solvent | ethanol | 5ml | C(C)O | C2H6O
product | N-(2-hydroxyethyl) 2-methyl-5-nitronicotinamide | OCCNC(C1=C(N=CC(=C1)[N+](=O)[O-])C)=O | C9H11N3O4
